US06770646B2
b) 2,3-Dihydro-2-methyl-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyridazin-1,4(6H)-dione
Methyl hydrazine (0.55 ml) was added to a solution of diethyl 1-(1-naphthalenylmethyl)pyrrole-3,4-dicarboxylate (1.00 g) in ethanol (10 ml). The mixture was heated at 200° C. in a sealed tube for 3 days. The mixture was evaporated and the residue was purified by column chromatography, eluting with ethyl acetate:methanol (19:1). The resulting solid was suspended in ethyl acetate (25 ml), heated to reflux, and allowed to cool to ambient temperature. The title compound (0.105 g) was collected by filtration.

reactant | Methyl hydrazine | 0.55 ml | CNN | CH6N2
reactant | diethyl 1-(1-naphthalenylmethyl)pyrrole-3,4-dicarboxylate | 1.00 g | C1(=CC=CC2=CC=CC=C12)CN1C=C(C(=C1)C(=O)OCC)C(=O)OCC | C21H21NO4
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2,3-Dihydro-2-methyl-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyridazin-1,4(6H)-dione | CN1NC(C=2C(C1=O)=CN(C2)CC2=CC=CC1=CC=CC=C21)=O | C18H15N3O2
